US07968723B2
3,5-Dibromobenzaldehyde (1.7 g, 6.3 mmol) was dissolved in methanol (100 mL) and sodium borohydride (0.250 g, 6.3 mmol) was added at 0° C. The reaction mixture was stirred for 0.5 h at 0° C. and then at 20° C. for another 0.5 h. The reaction mixture was concentrated in vacuo, diluted with brine (250 mL), acidified with hydrochloric acid and extracted with dichloromethane (3×50 mL). Evaporation of the organic solution gave 3,5-dibromo-benzyl alcohol as a white crystalline compound.

reactant | 3,5-Dibromobenzaldehyde | 6.3 mmol, 1.7 g | BrC=1C=C(C=O)C=C(C1)Br | C7H4Br2O
reactant | sodium borohydride | 6.3 mmol, 0.250 g | [BH4-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | 3,5-dibromo-benzyl alcohol | BrC=1C=C(CO)C=C(C1)Br | C7H6Br2O
